US07678801B2
56c) 3-[8-(2,6-Difluoro-phenyl)-2-methanesulfonyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propyl-benzamide
3-[8-(2,6-Difluoro-phenyl)-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propyl-benzamide (204 mg, 0.426 mmol, 1 eq) was suspended in acetonitrile (6 mL). The suspension was added to a stirring suspension of Oxone® (786 mg, 1.28 mmol, 3 eq) in water (3 mL). The resulting mixture was stirred overnight at about 40° C. The reaction mixture was then partitioned between dichloromethane and sodium metabisulfite (10% aq solution). The layers were separated then the organic was dried over magnesium sulfate, filtered then evaporated to furnish the title compound: LC-MS m/z 513 (M+H)+, 2.9 min (ret time).

reactant | 3-[8-(2,6-Difluoro-phenyl)-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propyl-benzamide | 0.426 mmol, 204 mg, 1 eq | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)SC)=O | C25H22F2N4O2S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | water | 3 mL | O | H2O
product | 3-[8-(2,6-Difluoro-phenyl)-2-methanesulfonyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propyl-benzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)(=O)C)=O | C25H22F2N4O4S
